US07504411B2
A suspension of 4-(4-Bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester (1.97 g, 5.79 mmol), palladium acetate (54 mg, 0.24 mmol), 2-(di-t-butylphosphino)biphenyl (154 mg, 0.52 mmol), and sodium t-butoxide (846 mg, 8.80 mmol), pyrrolidine (587 mg, 8.25 mmol) in toluene (80 mL) was heated at 90° C. for 3 h under nitrogen atmosphere. The resulting suspension was passed through a Celite column and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo. Purification of the residue by HPLC afforded 4-(4-pyrrolidin-1-yl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester as a solid that was used in the next step without further purification.

reactant | 4-(4-Bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 5.79 mmol, 1.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)Br | C16H22BrNO2
reactant | 2-(di-t-butylphosphino)biphenyl | 0.52 mmol, 154 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 8.80 mmol, 846 mg | CC(C)([O-])C.[Na+]
reactant | pyrrolidine | 8.25 mmol, 587 mg | N1CCCC1 | C4H9N
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.24 mmol, 54 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-pyrrolidin-1-yl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N1CCCC1 | C20H30N2O2
